US05137895
3-Nitromethyl-1-azabicyclo[2.2.2]octan-3-ol
A mixture of 3-quinuclidinone (24.4 g, 0.195 mole) and nitromethane (15.9 g, 0.260 mole) in absolute ethanol (100 ml) was added to a cooled (0° C.) mechanically stirred solution of 21% sodium ethoxide/ethanol (64.8 g, 200 mole) in absolute ethanol (300 ml) under nitrogen. The mixture was stirred at room temperature for one hour, then at 55°(±5°) C. for 18 hours. The cooled suspension was treated dropwise with acetic acid (13.2 g, 0.220 mole), filtered through Celite®, washed with methanol, and concentrated in vacuo. The residue was filtered through alumina (eluted with 1:2 methylene chloride/methanol), concentrated in vacuo, and triturated from acetonitrile to afford 8.44 g (23%) of the title compound as an off-white solid.

reactant | 3-quinuclidinone | 0.195 mole, 24.4 g | N12CC(C(CC1)CC2)=O | C7H11NO
reactant | nitromethane | 0.260 mole, 15.9 g | [N+](=O)([O-])C | CH3NO2
reactant | sodium ethoxide ethanol | 200 mole, 64.8 g | [O-]CC.[Na+].C(C)O
reactant | acetic acid | 0.220 mole, 13.2 g | C(C)(=O)O | C2H4O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 3-Nitromethyl-1-azabicyclo[2.2.2]octan-3-ol | 8.44 g, 23% | [N+](=O)([O-])CC1(CN2CCC1CC2)O | C8H14N2O3
